US08058299B2
Preparation of trans-2-[methyl-(1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidin-4-yl)-carbamoyl]-cyclopentanecarboxylic acid
Trans-2-[methyl-(1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidin-4-yl)-carbamoyl]-cyclopentanecarboxylic acid benzyl ester was hydrolyzed with lithium hydroxide in methanol and water. The resulted crude mixture was concentrated and the residue was dissolved in ethyl acetate and water with citric acid as acidifying agent. The organic layer then was concentrated and purified by reverse phase HPLC. The mixture of isomers was obtained as a yellow solid. LCMS calcd for C30 H31 F3 N4 O5 (m/e) 584, obsd 585 (M+H).

reactant | Trans-2-[methyl-(1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidin-4-yl)-carbamoyl]-cyclopentanecarboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@H]1[C@@H](CCC1)C(N(C1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)C)=O | C37H37F3N4O5
reactant | lithium hydroxide | [OH-].[Li+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | trans-2-[methyl-(1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidin-4-yl)-carbamoyl]-cyclopentanecarboxylic acid | CN(C(=O)[C@H]1[C@@H](CCC1)C(=O)O)C1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C30H31F3N4O5
